US07173031B2
C) 1-((4-(4-Amino-2-fluorophenoxy)pyrrolo[2,1-f][1,2,4]triazin-5-yl)methyl)piperidin-4-ol
To 1-((4-(methylthio)pyrrolo[2,1-f][1,2,4]triazin-5-yl)methyl)piperidin-4-ol (188 mg, 0.675 mmol) in dichloromethane (7 mL) at 0° C. was added TFA (78 μL, 1.01 mmol) followed by m-CPBA (166 mg, 0.675 mmol, ˜70% pure). After stirring at 0° C. for 1 h, the mixture was concentrated in vacuo. Ether (20 mL) was added and then decanted off to remove the benzoic acid. The resulting crude sulfoxide was dried under high vacuum. 4-Amino-2-fluorophenol (343 mg, 2.7 mmol) was dissolved in THF (10 mL), cooled to −78° C., and charged with NaHMDS (2.7 mL, 2.7 mmol, 1 M in THF). After stirring at 0° C. for 5 min, the crude sulfoxide in THF (3 mL) was added. The reaction was stirred at 0° C. for 30 min and was then concentrated in vacuo. The residue was suspended in EtOAc (20 mL), washed with water (10 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo. The crude product was purified by reverse phase prep HPLC and the appropriate fractions were concentrated in vacuo to remove methanol. The resulting aqueous solution was made basic with 5% aqueous sodium bicarbonate solution and extracted with EtOAc (3×10 mL). The combined extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to give 36 mg (15%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 8.04 (s, 1H), 8.00 (d, 1H, J=2.8 Hz), 7.02 (t, 1H, J=8.8 Hz), 6.88 (d, 1H, J=2.8 Hz), 6.51 (dd, 1H, J=12.8, 2.8 Hz), 6.46–6.42 (m, 1H), 5.45 (br s, 2H), 3.83 (s, 2H), 3.18 (m, 1H), 2.76–2.71 (m, 2H), 2.12–2.06 (m, 2H), 1.72–1.67 (m, 2H), 1.41–1.38 (m, 2H); MS(ESI+) m/z 358.4 (M+H)+.

reactant | 1-((4-(methylthio)pyrrolo[2,1-f][1,2,4]triazin-5-yl)methyl)piperidin-4-ol | 0.675 mmol, 188 mg | CSC1=NC=NN2C1=C(C=C2)CN2CCC(CC2)O | C13H18N4OS
reactant | TFA | 1.01 mmol, 78 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | m-CPBA | 0.675 mmol, 166 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 4-Amino-2-fluorophenol | 2.7 mmol, 343 mg | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | NaHMDS | 2.7 mmol, 1 M, 2.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-((4-(4-Amino-2-fluorophenoxy)pyrrolo[2,1-f][1,2,4]triazin-5-yl)methyl)piperidin-4-ol | 36 mg, 15% | NC1=CC(=C(OC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)O)C=C1)F | C18H20FN5O2
